US05350824
2 moles CF3CH2CH2SiCl3, 3.5 moles Me2SiHCl, and 2.6 moles tetra(n-butyl)ammonium chloride were introduced into a flask and heated under reflux for 3 days with stirring. A mixture of chlorosilanes was then recovered by distillation in vacuo. According to analysis by gas chromatography, the main components of the reaction product were CF3CH2CH2SiCl3, CF3CH2CH2SiHCl2, Me2SiHCl, and Me2SiCl2. The CF3CH2CH2SiCl3 and CF3CH2CH2SiHCl2 fraction was isolated by distillation in vacuo. The CF3CH2CH2SiCl3 and CF3CH2CH2SiHCl2 mixture was placed in a flask, 5 g isopropanolic chloroplatinic acid solution (concentration=10%) was added, and, while stirring and heating to 50° C., CF3CH=CH2 gas was then continuously injected through a glass tube inserted into the liquid. Its addition was halted when the peak for CF3CH2CH2SiHCl2 had disappeared in gas chromoatographic analysis. (CF3CH2CH2)2SiCl2 (bp=128° C./20 mmHg) was then isolated by distillation in vacuo.

reactant | CF3CH2CH2SiCl3 | C(F)(F)(F)CC[Si](Cl)(Cl)Cl | C3H4Cl3F3Si
reactant | CF3CH2CH2SiHCl2 | C(F)(F)(F)CC[SiH](Cl)Cl | C3H5Cl2F3Si
catalyst | chloroplatinic acid | 5 g | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | (CF3CH2CH2)2SiCl2 | [Si](Cl)(Cl)(CCC(F)(F)F)CCC(F)(F)F | C6H8Cl2F6Si
